US08426411B2
To a solution of ethyl 4-(cyclohexylamino)-1-tosyl-1H-pyrrolo[2,3-b]pyridine-5-carboxylate (1.71 g, 3.88 mmol) in toluene (43.1 mL) at about −78° C. was added DIBAL-H (1 M in hexanes, 6.60 mL, 6.60 mmol) dropwise. The reaction was stirred for about 1 h at about −78° C. and the reaction mixture was warmed to ambient temperature and stirred for about 1 h. The reaction was quenched with saturated aqueous potassium sodium tartrate (15 mL) and the mixture was stirred for about 1 h. EtOAc (25 mL) was added and the layers were separated. The organic layer was dried over anhydrous Na2SO4, filtered through a pad of silica gel while washing with EtOAc (20 mL), and the filtrate was concd under reduced pressure. The residue was purified by silica gel chromatography eluting with a gradient of 0-50% EtOAc in DCM to give (4-(cyclohexylamino)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)methanol (1.24 g, 80%) as an off white solid: LC/MS (Table 1, Method b) Rt=2.51 min; MS m/z: 400 (M+H)+.

reactant | ethyl 4-(cyclohexylamino)-1-tosyl-1H-pyrrolo[2,3-b]pyridine-5-carboxylate | 3.88 mmol, 1.71 g | C1(CCCCC1)NC1=C2C(=NC=C1C(=O)OCC)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C23H27N3O4S
reactant | DIBAL-H | 6.60 mmol, 1 M, 6.60 mL | CC(C)C[AlH]CC(C)C
solvent | toluene | 43.1 mL | C1(=CC=CC=C1)C | C7H8
product | (4-(cyclohexylamino)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)methanol | 1.24 g, 80% | C1(CCCCC1)NC1=C2C(=NC=C1CO)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C21H25N3O3S
